data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "ZnCl2"}], "steps": [{"reactants": "CCOc1cc(OC)ccc1NN=CCc1ccccc1.Cl[Zn]Cl", "products": "CCOc1cc(OC)ccc1N[N+](=CCc1ccccc1)[Zn-]([Cl])[Cl]"}, {"reactants": "CCOc1cc(OC)ccc1N[N+](=CCc1ccccc1)[Zn-]([Cl])[Cl]", "products": "CCOc1cc(OC)ccc1N[N](C=Cc1ccccc1)[Zn-]([Cl])[Cl].[H+]"}, {"reactants": "CCOc1cc(OC)ccc1N[N](C=Cc1ccccc1)[Zn-]([Cl])[Cl]", "products": "CCOc1cccc(C(C=[N][Zn-]([Cl])[Cl])C2C=C(OC)C=CC2=N)c1"}, {"reactants": "CCOc1cccc(C(C=[N][Zn-]([Cl])[Cl])C2C=C(OC)C=CC2=N)c1", "products": "CCOc1cc(OC)cc(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c1N"}, {"reactants": "CCOc1cc(OC)cc(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c1N", "products": "CCOc1cc(OC)cc2c1[NH2+]C([N-][Zn-]([Cl])[Cl])C2c1ccccc1"}, {"reactants": "CCOc1cc(OC)cc2c1[NH2+]C([N-][Zn-]([Cl])[Cl])C2c1ccccc1.[H+]", "products": "CCOc1cc(OC)cc2c1NC([NH2+][Zn-]([Cl])[Cl])C2c1ccccc1"}, {"reactants": "CCOc1cc(OC)cc2c1NC([NH2+][Zn-]([Cl])[Cl])C2c1ccccc1", "products": "CCOc1cc(OC)cc2c1[NH+]=CC2c1ccccc1.N[Zn-](Cl)Cl"}, {"reactants": "CCOc1cc(OC)cc2c1[NH+]=CC2c1ccccc1", "products": "CCOc1cc(OC)cc2c(-c3ccccc3)c[nH]c12.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "CN(C(=O)C1=CCCC1)c1cc(F)ccc1Br.[Pd]", "products": "CN(C(=O)C1=CCCC1)c1cc(F)cc[c]1[Pd][Br]"}, {"reactants": "CN(C(=O)C1=CCCC1)c1cc(F)cc[c]1[Pd][Br]", "products": "CN1C(=O)C2(CCC[CH]2[Pd][Br])c2cc(F)ccc21"}, {"reactants": "CN1C(=O)C2(CCC[CH]2[Pd][Br])c2cc(F)ccc21", "products": "CN1C(=O)C2(C=CCC2)c2cc(F)ccc21.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
{"conditions": [{"role": "reagent", "text": "hv"}], "steps": [{"reactants": "COc1cccc(C)c1C(=O)C1C2CCC1C2", "products": "COc1cccc(C)c1[C]([O])C1C2CCC1C2"}, {"reactants": "COc1cccc(C)c1[C]([O])C1C2CCC1C2", "products": "COc1cccc(C)c1C([O])=CC1C[CH]CC1"}, {"reactants": "COc1cccc(C)c1C([O])=CC1C[CH]CC1", "products": "COc1cccc(C)c1C(O)=CC1C=CCC1"}, {"reactants": "COc1cccc(C)c1C(O)=CC1C=CCC1", "products": "COc1cccc(C)c1C(=O)CC1C=CCC1"}]}
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "COc1ccc(F)c(Br)c1N(C)C(=O)C1=CCCC1.[Pd]", "products": "COc1ccc(F)[c]([Pd][Br])c1N(C)C(=O)C1=CCCC1"}, {"reactants": "COc1ccc(F)[c]([Pd][Br])c1N(C)C(=O)C1=CCCC1", "products": "COc1ccc(F)c2c1C1(CCC[CH]1[Pd][Br])C(=O)N2C"}, {"reactants": "COc1ccc(F)c2c1C1(CCC[CH]1[Pd][Br])C(=O)N2C", "products": "COc1ccc(F)c2c1C1(C=CCC1)C(=O)N2C.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "COc1ccc(Cl)c(CO[C@@H]2[C@@H](OCc3ccccc3)CN3OC4(CC4)C[C@H]23)c1", "products": "COc1ccc(Cl)c(CO[C@@H]2[C@@H](OCc3ccccc3)C[N][C@@H]2CC2([O])CC2)c1"}, {"reactants": "COc1ccc(Cl)c(CO[C@@H]2[C@@H](OCc3ccccc3)C[N][C@@H]2CC2([O])CC2)c1", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1cc(OC)ccc1Cl"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1cc(OC)ccc1Cl", "products": "COc1ccc(Cl)c(CO[C@H]2CN3CCC(=O)C[C@H]3[C@@H]2OCc2ccccc2)c1"}]}
{"conditions": [{"role": "reagent", "text": "[Rh] catalyst"}], "steps": [{"reactants": "C=CCC(O[SiH](c1ccccc1)c1cccc(C)c1)C(C)C.[Rh]", "products": "C=CCC(O[Si]([RhH])(c1ccccc1)c1cccc(C)c1)C(C)C"}, {"reactants": "C=CCC(O[Si]([RhH])(c1ccccc1)c1cccc(C)c1)C(C)C", "products": "Cc1cccc([Si]2(c3ccccc3)OC(C(C)C)C[CH]3[CH2][RhH]32)c1"}, {"reactants": "Cc1cccc([Si]2(c3ccccc3)OC(C(C)C)C[CH]3[CH2][RhH]32)c1", "products": "Cc1cccc([Si]2(c3ccccc3)OC(C(C)C)CC2[CH2][RhH])c1"}, {"reactants": "Cc1cccc([Si]2(c3ccccc3)OC(C(C)C)CC2[CH2][RhH])c1.[C-]#[O+]", "products": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C"}, {"reactants": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C", "products": "Cc1cccc([Si]2(c3ccccc3)OC(C(C)C)CC2C[C](=O)[RhH])c1"}, {"reactants": "Cc1cccc([Si]2(c3ccccc3)OC(C(C)C)CC2C[C](=O)[RhH])c1", "products": "Cc1cccc([Si]2(c3ccccc3)OC(C(C)C)CC2CC=O)c1.[Rh]"}]}
{"conditions": [{"role": "reagent", "text": "hv"}], "steps": [{"reactants": "COc1cc(C)cc(C(=O)C2C3CCC2C3)c1", "products": "COc1cc(C)cc([C]([O])C2C3CCC2C3)c1"}, {"reactants": "COc1cc(C)cc([C]([O])C2C3CCC2C3)c1", "products": "COc1cc(C)cc(C([O])=CC2C[CH]CC2)c1"}, {"reactants": "COc1cc(C)cc(C([O])=CC2C[CH]CC2)c1", "products": "COc1cc(C)cc(C(O)=CC2C=CCC2)c1"}, {"reactants": "COc1cc(C)cc(C(O)=CC2C=CCC2)c1", "products": "COc1cc(C)cc(C(=O)CC2C=CCC2)c1"}]}
{"conditions": [{"role": "reagent", "text": "cat. Rh2(OAc)4"}], "steps": [{"reactants": "CCC1(C(=O)C(=[N+]=[N-])C(=O)OC)CC(Cl)CN(C(=O)Cc2cn(C)c3ccccc23)C1=O.[Rh]", "products": "CCC1(C(=O)[C](=[Rh])C(=O)OC)CC(Cl)CN(C(=O)Cc2cn(C)c3ccccc23)C1=O.N#N"}, {"reactants": "CCC1(C(=O)[C](=[Rh])C(=O)OC)CC(Cl)CN(C(=O)Cc2cn(C)c3ccccc23)C1=O", "products": "CCC12CC(Cl)CN(C(=O)Cc3cn(C)c4ccccc34)C1=[O+][C-](C(=O)OC)C2=O.[Rh]"}, {"reactants": "CCC12CC(Cl)CN(C(=O)Cc3cn(C)c4ccccc34)C1=[O+][C-](C(=O)OC)C2=O", "products": "CCC12CC(Cl)CN3C(=O)CC45c6ccccc6N(C)C4C(C(=O)OC)(OC315)C2=O"}]}
